US04281012
A solution of 9.4 g of 6-chloro-4,4-dimethyl-[4H]-1,3-benzodioxin-2-carboxylic acid chloride in 50 ml of anhydrous benzene was added dropwise at room temperature with stirring to a mixture of 2.3 g of ethanol, 30 ml of anhydrous benzene and 3.03 g of triethylamine and the solution was stirred for 6 hours at room temperature and was vacuum filtered. The filtrate was washed with 70 ml of an aqueous saturated sodium bicarbonate solution and twice with 70 ml of water, was dried over magnesium sulfate, treated with activated carbon and filtered. The filtrate was evaporated to dryness under reduced pressure and the 8.4 g of residue were chromatographed over silica gel H. Fractional elution with methylene chloride and evaporation of the solvent yielded 5.3 g of ethyl 6-chloro-4,4-dimethyl-[4H]-1,3-benzodioxin-2-carboxylate in the form of an oil which crystallized at less than 50° C.

reactant | 6-chloro-4,4-dimethyl-[4H]-1,3-benzodioxin-2-carboxylic acid chloride | 9.4 g | ClC1=CC2=C(OC(OC2(C)C)C(=O)Cl)C=C1 | C11H10Cl2O3
reactant | ethanol | 2.3 g | C(C)O | C2H6O
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | ethyl 6-chloro-4,4-dimethyl-[4H]-1,3-benzodioxin-2-carboxylate | 5.3 g | ClC1=CC2=C(OC(OC2(C)C)C(=O)OCC)C=C1 | C13H15ClO4
